US07384952B2
To a solution of 1-(3-ethoxybenzyl)-4-(1-piperadinyl)-1H-pyrazolo[3,4-d]pyrimidine dihydrochloride (60 mg) in methylene chloride (1.2 mL) is added N,N-diisopropylethylamine (85 μL) and 4-nitrophenyl chloroformate (49 mg) at 0° C., and the mixture is stirred at room temperature for 2.5 hours. The reaction mixture is diluted with chloroform (1 mL) and thereto is added a saturated sodium hydrogencarbonate solution (1.5 mL). After stirring, the organic layer is separated and the aqueous layer is extracted with chloroform. The organic layers are combined, dried over sodium sulfate, and filtered. The filtrate is concentrated and the residue is purified by column chromatography on silica gel (Solvent; n-hexane:ethyl acetate=9:1→0:10) to give 1-(3-ethoxybenzyl)-4-[4-[(4-nitrophenoxy)carbonyl]piperazin-1-yl]-1H-pyrazolo[3,4-d]pyrimidine (72 mg, yield; 100%) as an amorphous powder. MS (APCI) m/z; 504 [M+H]+

reactant | 1-(3-ethoxybenzyl)-4-(1-piperadinyl)-1H-pyrazolo[3,4-d]pyrimidine dihydrochloride | 60 mg | Cl.Cl.C(C)OC=1C=C(CN2N=CC=3C2=NC=NC3N3CCCCC3)C=CC1
reactant | N,N-diisopropylethylamine | 85 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-nitrophenyl chloroformate | 49 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | sodium hydrogencarbonate | 1.5 mL | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 1.2 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-ethoxybenzyl)-4-[4-[(4-nitrophenoxy)carbonyl]piperazin-1-yl]-1H-pyrazolo[3,4-d]pyrimidine | 72 mg, yield; 100% | C(C)OC=1C=C(CN2N=CC=3C2=NC=NC3N3CCN(CC3)C(=O)OC3=CC=C(C=C3)[N+](=O)[O-])C=CC1 | C25H25N7O5
